US04016212
A solution of 1,1-bis-(3-methyl-but-2-enoxy)-3-methyl-but-2-ene (10.0 g. 41.3 mmol.) and 2,4-dinitrophenol (0.17 g., 1.01 mmol.) in toluene (300 ml.) was refluxed for 45 hours. After cooling to room temperature, the toluene solution was washed with 4 × 50 ml. of saturated NaHCO3 solution, 2 × 100 ml. of saturated NaCl solution and dried with anhydrous NaOAc. The toluene was removed by distillation at 20 mm and an oil bath temperature of 55°-60° centigrade. The residue was diluted with diethyl ether and washed with 3 × 50 ml. of saturated aqueous NaCl solution. The ether layer was then dried (anhydrous NaOAc) and concentrated under reduced pressure. Distillation of the residue through a short column gave pure citral.

reactant | 1,1-bis-(3-methyl-but-2-enoxy)-3-methyl-but-2-ene | 41.3 mmol, 10.0 g | CC(=CCOC(C=C(C)C)OCC=C(C)C)C | C15H26O2
reactant | 2,4-dinitrophenol | 1.01 mmol, 0.17 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | citral | CC(C)=CCCC(C)=CC=O | C10H16O
